US06720295B2
Synthesis of 3-cyclopentyl-1,1-dimethylpropyl acetate
10 g (64 mmol) of 4-cyclopentyl-2-methyl-2-butanol, 32.6 g (320 mmol) of acetic anhydride and a drop of H3PO4 (85% in water) were introduced in a 200 ml flask, and the mixture was stirred over night, at room temperature. Afterwards, 100 ml of water where added and the stirring was prolonged for an additional period of 2 hours. The crude product was extracted by washing the water solution with pentane. The organic phases thus obtained were washed twice with a saturated NaHCO3 water solution, then twice with brine and finally dried over MgSO4 and concentrated. It was thus obtained 12.7 g of crude product (quantitative yield) having a GC purity of 99%.

reactant | 4-cyclopentyl-2-methyl-2-butanol | 64 mmol, 10 g | C1(CCCC1)CCC(C)(O)C | C10H20O
reactant | acetic anhydride | 320 mmol, 32.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | water | 100 ml | O | H2O
product | 3-cyclopentyl-1,1-dimethylpropyl acetate | 12.7 g, quantitative yield | C(C)(=O)OC(CCC1CCCC1)(C)C | C12H22O2
